US05556710
2[N (3-(2-Pyridyldithio)propionyl) (6-aminohexoxvhydroxy-phosphinyl)oxy-N,N,N-trimethylethanaminium hydroxide, inner salt
2-[(6-Aminohexoxyhydroxyphosphinyl)oxy-N,N,N-trimethylethanaminium hydroxide, inner salt (90 mg, 0.28 mmol) was dissolved in dry dimethyl sulphoxide (2 ml). Triethylamine (197 μl, 1.41 mmol) was added, followed by N-succinimidyl 3-(2-pyridyldithio)propionate (88 mg, 0.28 mmol). The mixture was stirred at ambient temperature for eighteen hours. The solvent was evaporated under vacuum at a temperature of 60° C. and re-evaporated from methanol. The residue was chromatographed on silica gel eluting with methanol. The relevant fractions were combined and evaporated to dryness to give 2[N(3-(2 pyridyldithio)propionyl)(6-aminohexoxyhydroxy

reactant | (6-Aminohexoxyhydroxyphosphinyl)oxy-N,N,N-trimethylethanaminium hydroxide | [OH-].NCCCCCCOP(=O)(OC(C)[N+](C)(C)C)O
reactant | Triethylamine | 1.41 mmol, 197 μl | C(C)N(CC)CC | C6H15N
reactant | N-succinimidyl 3-(2-pyridyldithio)propionate | 0.28 mmol, 88 mg | C1CC(=O)N(C1=O)OC(=O)CCSSC2=CC=CC=N2 | C12H12N2O4S2
solvent | dimethyl sulphoxide | 2 ml | CS(=O)C | C2H6OS
product | (3-(2-Pyridyldithio)propionyl) (6-aminohexoxvhydroxy-phosphinyl)oxy-N,N,N-trimethylethanaminium hydroxide | [OH-].N1=C(C=CC=C1)SSCCC(=O)C(C)([N+](C)(C)C)OP(=O)(O)OCCCCCCN | InChI=1S/C19H34N3O5PS2.H2O/c1-19(22(2,3)4,27-28(24,25)26-15-10-6-5-8-13-20)17(23)12-16-29-30-18-11-7-9-14-21-18;/h7,9,11,14H,5-6,8,10,12-13,15-16,20H2,1-4H3;1H2
